US05134236
A mixture of 5.5 g of 2-fluorobenzoic acid, 2-phenylhydrazide, 6.0 g of PCl5 and 20 ml of diethyl ether was refluxed for 1 hour, under nitrogen, and then permitted to stand at ambient temperature for about 20 hours. In the following order, a solution of 5 g of phenol in 5 ml of diethyl ether, 30 ml of methanol, and sufficient water to reach the solution cloud point, were added, dropwise, to the reaction mixture. The mixture was extracted with diethyl ether and the extract washed with water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to an oil. Purification of the oil by means of flash chromatography on silica gel utilizing hexane-ethyl acetate (5%) as the eluent, followed by recrystallization from hexane yielded 1.5 g of α-chloro-2-fluorobenzaldehyde, phenylhydrazone.

reactant | 2-fluorobenzoic acid, 2-phenylhydrazide | 5.5 g | C1(=CC=CC=C1)NNC(C1=C(C=CC=C1)F)=O | C13H11FN2O
reactant | PCl5 | 6.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phenol | 5 g | C1(=CC=CC=C1)O | C6H6O
reactant | water | O | H2O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | α-chloro-2-fluorobenzaldehyde | 1.5 g | ClC(C1=C(C=CC=C1)F)=O | C7H4ClFO
